US07361672B2
37.3 Using general procedure C, (2-tert-butoxycarbonylamino-thiazol-4-yl)-acetic acid was coupled with 1-(pyrrolidinocarbonylmethyl)piperazine to give (4-{2-oxo-2-[4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-ethyl}-thiazol-2-yl)-carbamic acid tert-butyl ester. White solid. MS 460.4 ([M+Na]+)

reactant | (2-tert-butoxycarbonylamino-thiazol-4-yl)-acetic acid | C(C)(C)(C)OC(=O)NC=1SC=C(N1)CC(=O)O | C10H14N2O4S
reactant | 1-(pyrrolidinocarbonylmethyl)piperazine | N1(CCCC1)C(=O)CN1CCNCC1 | C10H19N3O
product | (4-{2-oxo-2-[4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-ethyl}-thiazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC=C(N1)CC(N1CCN(CC1)CC(N1CCCC1)=O)=O)=O | C20H31N5O4S
